US07407959B2
Step 1: Preparation of (R)-2,2,2-trifluoro-1-[4-(4,4,5,5-tetramethyl-1,3,2-dioxaborolan-2-yl)phenyl]ethanol
A suspension of (R)-1-(4-bromophenyl)-2,2,2-trifluoroethanol (2.26 g, 8.86 mmol), bis(pinacolato)diboron (2.9 g, 11 mmol) and potassium acetate (3 g, 30 mmol) in DMF (80 mL) was bubbled with nitrogen for 15 minutes [1,1-Bis(diphenylphosphine)ferrocene]dichloropalladium(II), 1:1 complex with dichloromethane (362 mg, 0.44 mmol) was added and bubbled again with nitrogen for 10 minutes. The reaction mixture was stirred at 85° C. for 2 h, poured on ice and water and extracted with Ethyl acetate (2×80 mL). The combined organic layers were washed with a saturated NaCl solution, dried (MgSO4) and concentrated under vacuum. The residue was purified by chromatography on silica gel (Ethyl acetate/Hexane, 5:95 to 20:80 for 25 minutes then 20:80 for 5 minutes) to afford the title product.

reactant | (R)-1-(4-bromophenyl)-2,2,2-trifluoroethanol | 8.86 mmol, 2.26 g | BrC1=CC=C(C=C1)[C@H](C(F)(F)F)O | C8H6BrF3O
reactant | bis(pinacolato)diboron | 11 mmol, 2.9 g | B1(OC(C(O1)(C)C)(C)C)B2OC(C(O2)(C)C)(C)C | C12H24B2O4
reactant | potassium acetate | 30 mmol, 3 g | C(C)(=O)[O-].[K+]
reactant | dichloromethane | 0.44 mmol, 362 mg | ClCCl | CH2Cl2
solvent | DMF | 80 mL | CN(C)C=O | C3H7NO
product | (R)-2,2,2-trifluoro-1-[4-(4,4,5,5-tetramethyl-1,3,2-dioxaborolan-2-yl)phenyl]ethanol | FC([C@H](O)C1=CC=C(C=C1)B1OC(C(O1)(C)C)(C)C)(F)F | C14H18BF3O3
